US09388149B2
A solution of 4.03 g (13.63 mmol; 1.0 eq) of methyl (R)-1-(2-hydroxy-3-nitrobenzoyl)pyrrolidine-2-carboxylate in 50 ml of methanol was stirred at hydrogen atmospheric pressure in the presence of 390 mg (10% by weight) of palladium on carbon at 10% for 3 days. The reaction medium was filtered through celite, rinsed with methanol and evaporated. The residue was chromatographed on silica gel (200 g prepacked column) eluted with heptane/ethyl acetate (gradient). 2.65 g of methyl (R)-1-(3-amino-2-hydroxybenzoyl)pyrrolidine-2-carboxylate were obtained in the form of a yellow oil. Yield=74%.

reactant | methyl (R)-1-(2-hydroxy-3-nitrobenzoyl)pyrrolidine-2-carboxylate | 13.63 mmol, 4.03 g, 1.0 eq | OC1=C(C(=O)N2[C@H](CCC2)C(=O)OC)C=CC=C1[N+](=O)[O-] | C13H14N2O6
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium on carbon | 390 mg | [Pd] | Pd
product | methyl (R)-1-(3-amino-2-hydroxybenzoyl)pyrrolidine-2-carboxylate | 2.65 g, Yield=74% | NC=1C(=C(C(=O)N2[C@H](CCC2)C(=O)OC)C=CC1)O | C13H16N2O4
